US06713471B1
(6bR,10aS)-1,2,6b,7,8,9,10,10a-octahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole 3,3-dioxide hydrochloride
The tert-butyl(6bR,10aS)-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole-8(7H)-carboxylate 3,3-dioxide (130 mg) was mixed with cold ethanol hydrochloride (4M) (5 mL), and the solution was stirred for 10 min at 0° C. The solvent was removed under reduced pressure and the residue was dissolved in hot acetonitrile with a small amount of methanol. Upon cooling to room temperature, the title compound (78 mg, 73%) was obtained as white crystalline material. 1H NMR (CD3OD, 500 MHz) δ2.13-2.22 (m, 1H), 2.23-2.32 (m, 1H), 2.88 (t, 1H, J=11.3 Hz), 3.19-3.35 (m, 4H), 3.45-3.66 (m, 4H), 3.78-3.88 (m, 2H), 6.92 (t, 1H, J=7.8 Hz), 7.39 (d, 1H, J=7.8 Hz), 7.49 (d, 1H, J=8.5 Hz) ppm. CIMS (Methane) m/z=265 [C13H16N2O2S+H]+.

reactant | tert-butyl(6bR,10aS)-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole-8(7H)-carboxylate 3,3-dioxide | 130 mg | C1CS(C=2C=CC=C3[C@H]4[C@@H](N1C23)CCN(C4)C(=O)OC(C)(C)C)(=O)=O | C18H24N2O4S
reactant | ethanol hydrochloride | 4M, 5 mL | Cl.C(C)O
product | (6bR,10aS)-1,2,6b,7,8,9,10,10a-octahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole 3,3-dioxide hydrochloride | 78 mg, 73% | Cl.C1CS(C=2C=CC=C3[C@H]4[C@@H](N1C23)CCNC4)(=O)=O | InChI=1S/C13H16N2O2S.ClH/c16-18(17)7-6-15-11-4-5-14-8-10(11)9-2-1-3-12(18)13(9)15;/h1-3,10-11,14H,4-8H2;1H/t10-,11-;/m0./s1
